Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
___ 03:02AM BLOOD WBC-10.6* RBC-3.95* Hgb-12.5* Hct-36.9* 
MCV-93 MCH-31.6 MCHC-33.9 RDW-13.3 RDWSD-45.4 Plt ___
___ 06:45AM BLOOD WBC-11.6* RBC-4.24* Hgb-13.5* Hct-39.6* 
MCV-93 MCH-31.8 MCHC-34.1 RDW-13.4 RDWSD-45.7 Plt ___
___ 03:02AM BLOOD Glucose-94 UreaN-14 Creat-1.1 Na-140 
K-4.3 Cl-101 HCO3-24 AnGap-15
___ 06:45AM BLOOD Glucose-115* UreaN-17 Creat-1.0 Na-143 
K-4.4 Cl-103 HCO3-27 AnGap-13
___ 06:13AM BLOOD Calcium-9.4 Phos-5.2* Mg-2.0
___ 06:45AM BLOOD Phos-5.2* Mg-2.2
___ 03:00PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 03:02AM BLOOD CRP-4.9
___ 03:00PM BLOOD QUANTIFERON-TB GOLD-PND
___ 03:00PM BLOOD THIOPURINE METHYLTRANSFERASE (TPMT), 
ERYTHROCYTES-PND

EXAMINATION:  SECOND OPINION CT ABD/PELVIS 
  
INDICATION:  ___ year old man with crohns and partial sbos, 
presenting with 
?recurrent sbo// eval for evidence of crohns flare 
  
TECHNIQUE:  Single phase contrast: MDCT axial images were 
acquired through the 
abdomen and pelvis following intravenous contrast 
administration. 
Oral contrast was administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Found no primary dose record and no dose record stored 
with the sibling 
of a split exam. 
!If this Fluency report was activated before the completion of 
the dose 
transmission, please reinsert the token called CT DLP Dose to 
load new data. 
  
COMPARISON:  MRI dated ___. 
  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits 
apart from 
dependent atelectasis.  There is no evidence of pleural or 
pericardial 
effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
2.7 cm midpole and lower pole 0.7 cm simple cysts are noted in 
the right 
kidney.  Left renal lower pole 1.9 mm simple cyst is noted as 
well.  There is 
no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  The terminal 
ileum appears 
unremarkable.  There is abnormal wall thickening and hyperemia 
of the distal 
ileum spanning approximately 7 cm with areas of a submucosal fat 
deposition, 
and a similar distribution to the prior MRI.  Additionally, in 
the right lower 
quadrant are tethered loops of adjacent small and large bowel 
likely 
reflecting chronic adhesions or healed fistulae.  There are no 
adjacent 
inflammatory changes or vascular engorgement to suggest an acute 
flare.  At 
the proximal aspect of the disease segment of ileum, there 
appears to be a 
bowel within bowel configuration suggesting intussusception with 
upstream 
small bowel fecalization and dilatation.  There is no evidence 
of acutely 
diseased segments of small bowel.  The colon is unremarkable.  
The appendix is 
not visualized. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate is enlarged, otherwise the 
reproductive 
organs are unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.  Small 
fat containing left inguinal hernia. 
  
IMPRESSION:  
  
Chronic Crohn's disease affecting the distal ileum with new 
upstream small 
bowel distension consistent with obstruction either secondary to 
focal 
stricturing or intussusception.  No evidence of active disease. 

KUB ___
Top-normal air-filled loops of small bowel clustered within the 
right upper 
and mid abdomen with air-fluid levels are consistent with small 
bowel 
obstruction. 

MICRO: none

IMAGING/STUDIES: 
CT abd/pelvis at ___ - image in LifeImage 
1. Abnormal wall thickening and hyperemic segments of terminal
ileum and distal ileum with adhesions between small bowel and
sigmoid colon in the upper right side of the pelvis, with an
overall appearance suggestive of chronic changes related to
Crohns disease. 
2. Distention of portions of distal ileum up to 4.2 cm and
decompressed state of the terminal ileum consistent with small
bowel obstruction due to ileal wall thickening approximately
20-30 cm proximal to the ileocecal valve. 
3. Additional findings of coronary artery calcifications, mild
fatty infiltration of the liver, benign-appearing renal cysts,
and prostatomegaly. 

EKG from ___:
No acute ischemic changes
NSR at 63, RBBB, question of brugada pattern (reports no history
of syncope). 

CXR at ___ - clear

EKG (interpreted by me): NSR, rate 65, normal axis, normal
intervals, RBBB
 
Brief Hospital Course:
# Partial small bowel obstruction
# Crohn's colitis
# Mild leukocytosis
Patient's symptoms are consistent with prior episodes of partial
small bowel obstruction and KUB as well as CT abd/pelvis shows 
evidence of SBO.
Likely partial SBO is due to a flare of Crohn's given his 
symptoms, though CRP is
only 4.___/P showed no signs of active disease. He is 
currently comfortable and has minimal pain, so does not require 
NG decompression. He was treated with conservative therapy - IV 
fluids, ADAT, antiemetics, pain meds as needed. 
For his Crohn's he had been on mercaptopurine and has never been 
on
biologic therapy. His last colonoscopy in ___ showed some
evidence of cryptitis on biopsy involving the cecum and sigmoid
colon. GI team will discuss potential initiation of biologics
with patient as outpatient. Pt was transitioned to a full liquid 
diet on the day of discharge and was tolerating it well with no 
pain, despite some evidence of residual SBO on KUB. He still 
felt he was well enough to leave today and understood that he 
should advance his liquid diet slowly at home. 

TRANSITIONAL ISSUES
[ ] Ordered TPMT activity, full hepatitis B serologies and
quantiferon gold for possible anti-TNF therapy as outpatient
[ ] discharging on steroid taper with plan for GI follow up. OK 
to continue ___ while on steroids

CHRONIC/STABLE PROBLEMS:

# CAD
Coronary artery calcs seen on Ct A/P
H/o MI s/p stent placement in ___.
 - Continue home aspirin, atorvastatin, and metoprolol

GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: Sips, IV fluids
# Lines/Tubes/Drains: PIV
# Precautions: Standard
# VTE prophylaxis: Heparin sq
# Contacts/HCP/Surrogate and Communication: Wife, ___
___
# Code Status/ACP: (please also see current POE order) Full 
code,
confirmed with patient
# Disposition: 
- Anticipate discharge to: Home
- Anticipated discharge date: ___

>30 min spent on discharge planning including face to face time. 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Mercaptopurine 100 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  PredniSONE 20 mg PO DAILY Duration: 7 Doses 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
Please take 20 mg prednisone daily, then taper weekly by 5 mg to 
a 5 mg total daily dose.  
This is dose # 1 of 4 tapered doses
RX *prednisone [Deltasone] 20 mg 1 tablet(s) by mouth once a day 
Disp #*7 Tablet Refills:*0 
2.  PredniSONE 15 mg PO DAILY Duration: 7 Doses 
Start: After 20 mg DAILY tapered dose 
Please take 20 mg prednisone daily, then taper weekly by 5 mg to 
a 5 mg total daily dose.  
This is dose # 2 of 4 tapered doses
RX *prednisone 5 mg 3 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
3.  PredniSONE 10 mg PO DAILY Duration: 7 Doses 
Start: After 15 mg DAILY tapered dose 
Please take 20 mg prednisone daily, then taper weekly by 5 mg to 
a 5 mg total daily dose.  
This is dose # 3 of 4 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
4.  PredniSONE 5 mg PO DAILY Duration: 7 Doses 
Start: After 10 mg DAILY tapered dose 
Please take 20 mg prednisone daily, then taper weekly by 5 mg to 
a 5 mg total daily dose.  
This is dose # 4 of 4 tapered doses
RX *prednisone 5 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*0 
5.  PredniSONE 5 mg PO DAILY 
Start: After last tapered dose completes 
Please take 20 mg prednisone daily, then taper weekly by 5 mg to 
a 5 mg total daily dose.  
This is the maintenance dose to follow the last tapered dose 
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Mercaptopurine 100 mg PO DAILY  
10.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Partial Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital due to a small bowel 
obstruction. This was treated conservatively, by allowing your 
bowels to rest. We would like you to start on a full liquid diet 
on discharge and advance your diet slowly, as tolerated. You 
should also start taking a prednisone taper daily, and follow up 
at your outpatient GI appointment. It is ok to continue taking 
your ___. 
 
Followup Instructions:
___